US05679696
Diisopropyl azodicarboxylate (0.61 mL) is added to a solution of methyl 3-hydroxy-4-trifluoromethoxybenzoate (0.74 g), cyclopentanol (0.19 g) and triphenylphosphine (0.81 g) in tetrahydrofuran (10 mL) and the mixture is heated overnight at reflux. Solvent is evaporated off under reduced pressure and the resulting yellow oil is triturated with diethyl ether. The white solid thus formed is filtered off, and the filtrate is evaporated under reduced pressure and subjected to mplc, to give methyl 3-cyclopentyloxy-4-trifluoromethoxy-benzoate in the form of a pale yellow oil (0.6 g).

reactant | Diisopropyl azodicarboxylate | 0.61 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | methyl 3-hydroxy-4-trifluoromethoxybenzoate | 0.74 g | OC=1C=C(C(=O)OC)C=CC1OC(F)(F)F | C9H7F3O4
reactant | cyclopentanol | 0.19 g | C1(CCCC1)O | C5H10O
reactant | triphenylphosphine | 0.81 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | methyl 3-cyclopentyloxy-4-trifluoromethoxy-benzoate | C1(CCCC1)OC=1C=C(C(=O)OC)C=CC1OC(F)(F)F | C14H15F3O4
